US05112837
A mixture of 2-chloro-4,6-dimethylquinoline (3.8 g, prepared as described in note q above) and phenol (14 g) was heated to 140° C. and dry ammonia gas was passed into the stirred mixture for 3 hours. After cooling the mixture was dissolved in an aqueous potassium hydroxide solution (10% w/v) and extracted with ethyl acetate (3×50 ml). The combined organic extracts were washed with aqueous N sodium hydroxide solution, dried (magnesium sulphate) and evaporated. The residue was purified by chromatography on a silica gel column using a 1:7 v/v mixture of methanol and ethyl acetate as eluent. There was thus obtained 2-amino-4,6-dimethylquinoline (0.4 g). A mixture of this product (0.4 g) and acetic anhydride (10 ml) was stirred at 20° C. for 3 hours and then evaporated to dryness. The residue was washed with petroleum ether (b.p. 60°-80° C., 3×25 ml) to leave 2-acetamido-4,6-dimethylquinoline as a pink solid (0.37 g).

reactant | 2-chloro-4,6-dimethylquinoline | 3.8 g | ClC1=NC2=CC=C(C=C2C(=C1)C)C | C11H10ClN
reactant | phenol | 14 g | C1(=CC=CC=C1)O | C6H6O
reactant | ammonia | N | H3N
solvent | potassium hydroxide | [OH-].[K+]
product | 2-acetamido-4,6-dimethylquinoline | 0.37 g | C(C)(=O)NC1=NC2=CC=C(C=C2C(=C1)C)C | C13H14N2O
